data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1ccc(Cl)cc1CO[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(Cl)ccc2F)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(Cl)ccc2F)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(Cl)ccc1F"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(Cl)ccc1F", "products": "O=C1CCN2C[C@H](OCc3cc(Cl)ccc3F)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Clc1cc(Cl)cc(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(Cl)cc(Cl)c2)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(Cl)cc(Cl)c2)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(Cl)cc(Cl)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(Cl)cc(Cl)c1", "products": "O=C1CCN2C[C@H](OCc3cc(Cl)cc(Cl)c3)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12)c1cccc(C)c1", "products": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1cccc(C)c1"}, {"reactants": "COC(O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1)c1cccc(C)c1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1cccc(C)c1"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1cccc(C)c1", "products": "COC(O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1)c1cccc(C)c1"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "CCOc1cc(NN=CCc2ccccc2)ccc1OC.Cl[Zn]Cl", "products": "CCOc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC"}, {"reactants": "CCOc1cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC", "products": "CCOc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC.[H+]"}, {"reactants": "CCOc1cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])ccc1OC", "products": "CCOc1ccccc1C(C=[N][Zn-]([Cl])[Cl])C1C=C(OC)C=CC1=N"}, {"reactants": "CCOc1ccccc1C(C=[N][Zn-]([Cl])[Cl])C1C=C(OC)C=CC1=N", "products": "CCOc1c(OC)ccc(N)c1C(C=[N][Zn-]([Cl])[Cl])c1ccccc1"}, {"reactants": "CCOc1c(OC)ccc(N)c1C(C=[N][Zn-]([Cl])[Cl])c1ccccc1", "products": "CCOc1c(OC)ccc2c1C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "CCOc1c(OC)ccc2c1C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "CCOc1c(OC)ccc2c1C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "CCOc1c(OC)ccc2c1C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "CCOc1c(OC)ccc2c1C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "CCOc1c(OC)ccc2c1C(c1ccccc1)C=[NH+]2", "products": "CCOc1c(OC)ccc2[nH]cc(-c3ccccc3)c12.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "Fc1ccc(Cl)c(CO[C@@H]2[C@@H](OCc3ccccc3)CN3OC4(CC4)C[C@H]23)c1", "products": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(F)ccc2Cl)CC1"}, {"reactants": "[O]C1(C[C@H]2[N]C[C@H](OCc3ccccc3)[C@H]2OCc2cc(F)ccc2Cl)CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)ccc1Cl"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OCc1cc(F)ccc1Cl", "products": "O=C1CCN2C[C@H](OCc3cc(F)ccc3Cl)[C@@H](OCc3ccccc3)[C@@H]2C1"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1c(Cl)cccc1C(=O)C1C2CCC1C2", "products": "COc1c(Cl)cccc1[C]([O])C1C2CCC1C2"}, {"reactants": "COc1c(Cl)cccc1[C]([O])C1C2CCC1C2", "products": "COc1c(Cl)cccc1C([O])=CC1C[CH]CC1"}, {"reactants": "COc1c(Cl)cccc1C([O])=CC1C[CH]CC1", "products": "COc1c(Cl)cccc1C(O)=CC1C=CCC1"}, {"reactants": "COc1c(Cl)cccc1C(O)=CC1C=CCC1", "products": "COc1c(Cl)cccc1C(=O)CC1C=CCC1"}]}
{"conditions": [{"role": "reagent", "text": "Δ"}], "steps": [{"reactants": "C=C(Br)CC1=C(C)C2C(F)C1CC2(C(=C)O[Si](C)(C)C)C(=O)OC", "products": "C=C(Br)CC12C=C(C)CC1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2"}, {"reactants": "C=C(Br)CC12C=C(C)CC1(F)CC(C(=O)OC)=C(O[Si](C)(C)C)C2", "products": "C=C(Br)CC12C=C(C)CC1(F)CC(C(=O)OC)=C(O)C2"}, {"reactants": "C=C(Br)CC12C=C(C)CC1(F)CC(C(=O)OC)=C(O)C2", "products": "C=C(Br)CC12C=C(C)CC1(F)CC(C(=O)OC)C(=O)C2"}]}
{"conditions": [{"role": "reagent", "text": "150 °C"}], "steps": [{"reactants": "COc1ccccc1C(OC)O[C@@H]1[C@@H](OCc2ccccc2)CN2OC3(CC3)C[C@H]12", "products": "COc1ccccc1C(OC)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1"}, {"reactants": "COc1ccccc1C(OC)O[C@@H]1[C@@H](OCc2ccccc2)C[N][C@@H]1CC1([O])CC1", "products": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccccc1OC"}, {"reactants": "[CH2]CC(=O)C[C@H]1[N]C[C@H](OCc2ccccc2)[C@H]1OC(OC)c1ccccc1OC", "products": "COc1ccccc1C(OC)O[C@H]1CN2CCC(=O)C[C@H]2[C@@H]1OCc1ccccc1"}]}
